US05089513
Ethyl 3,5-dihydroxybenzoate was reacted in turn with 2-bromomethylnaphthalene and allyl bromide using the conditions described in Example 1 to give ethyl 5-allyloxy-3-(naphth-2-ylmethoxy)benzoate in 15% yield, as an oil. Following the procedures described in the portion of Example 3 which is concerned with the preparation of starting materials the product so obtained was reacted with thiazol-2-yl-lithium to give 5-allyloxy-3-(naphth-2-ylmethoxy)phenyl 2-thiazolyl ketone in 52% yield, m.p. 65°-67° C., and that product was reacted with ethylmagnesium to give the required starting material in 49% yield, as a gum.

reactant | Ethyl 3,5-dihydroxybenzoate | OC=1C=C(C(=O)OCC)C=C(C1)O | C9H10O4
reactant | 2-bromomethylnaphthalene | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | allyl bromide | C(C=C)Br | C3H5Br
product | ethyl 5-allyloxy-3-(naphth-2-ylmethoxy)benzoate | 15% yield | C(C=C)OC=1C=C(C=C(C(=O)OCC)C1)OCC1=CC2=CC=CC=C2C=C1 | C23H22O4
